US04113940
Acetic acid (8 ml) and zinc powder (6 g) were added under stirring and ice-cooling to a solution of 2,2,2-trichloroethyl 2-methyl-7-(3-phenylureido)-3-cephem-4-carboxylate (4.1 g) in anhydrous dimethylformamide (30 ml), and the mixture was stirred for 1 hour under ice-cooling and then 3.5 hours at room temperature. After the reaction, 10% hydrochloric acid and ethyl acetate were added to the reaction mixture. The insoluble material was filtered off and the ethyl acetate layer was separated, and then extracted with a sodium bicarbonate aqueous solution. The extract was acidified with 10% hydrochloric acid and extracted with ethyl acetate, after which the extract was dried over magnesium sulfate. After the solvent was distilled off, the residue was crystallized by adding ether to give 2-methyl-7-(3-phenylureido)-3-cephem-4-carboxylic acid (1.0 g), mp 148° to 151° C.

reactant | Acetic acid | 8 ml | C(C)(=O)O | C2H4O2
reactant | 2,2,2-trichloroethyl 2-methyl-7-(3-phenylureido)-3-cephem-4-carboxylate | 4.1 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(=O)NC2=CC=CC=C2)=O | C17H16Cl3N3O4S
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 6 g | [Zn] | Zn
product | 2-methyl-7-(3-phenylureido)-3-cephem-4-carboxylic acid | 1.0 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(=O)NC2=CC=CC=C2)=O | C15H15N3O4S
